US05008438
A mixture of 30 g (0.10 mole) of methyl 2-(4-phenoxybut-1-yloxy)-phenylacetate, 12.5 g (0.21 mole) of methyl formate and 100 ml of diethyl ether is added dropwise at room temperature to a suspension of 3.4 g (0.14 mole) of sodium hydride in 50 ml of diethyl ether. The mixture is stirred for 12 hours at room temperature and is then hydrolyzed by adding ice. The aqueous, alkaline phase is extracted with diethyl ether, acidified with dilute HCl and again extracted by shaking with diethyl ether. After the organic phase has been evaporated down, 21 g (71%) of methyl alpha-[2-(4-phenoxybut-1-yloxy)-phenyl]-β-hydroxyacrylate are obtained.

reactant | methyl 2-(4-phenoxybut-1-yloxy)-phenylacetate | 0.10 mole, 30 g | O(C1=CC=CC=C1)CCCCOC1=C(C=CC=C1)CC(=O)OC | C19H22O4
reactant | methyl formate | 0.21 mole, 12.5 g | C(=O)OC | C2H4O2
reactant | sodium hydride | 0.14 mole, 3.4 g | [H-].[Na+]
solvent | diethyl ether | 50 ml | C(C)OCC | C4H10O
solvent | diethyl ether | 100 ml | C(C)OCC | C4H10O
product | methyl alpha-[2-(4-phenoxybut-1-yloxy)-phenyl]-β-hydroxyacrylate | 21 g, 71% | O(C1=CC=CC=C1)CCCCOC1=C(C=CC=C1)C(C(=O)OC)=CO | C20H22O5
